US09428509B2
3-Chloro-4-(5-(3,4-diaminophenyl)-4-methoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-N,N-dimethylbenzamide
tert-Butyl 4-(2-(2-chloro-4-(dimethylcarbamoyl)phenylamino)-4-methoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1,2-phenylenedicarbamate (1 equiv) was dissolved in methanolic hydrochloric acid (1N, 7.8 equiv) and stirred at 0° C. overnight. After the reaction was complete, the mixture was basified at 0° C. with aqueous ammonia to pH=7-8 and the aqueous layer was extracted with DCM. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and filtered. Concentration under reduced pressure gave the crude product, which was purified by silica gel column chromatography (10% ethyl acetate in petroleum ether) to afford the title compound (78% yield). MS (ESI) m/z 582.3 [M+1]+.

reactant | tert-Butyl 4-(2-(2-chloro-4-(dimethylcarbamoyl)phenylamino)-4-methoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1,2-phenylenedicarbamate | 1 equiv | ClC1=C(C=CC(=C1)C(N(C)C)=O)NC=1N=C(C2=C(N1)N(C=C2C2=CC(=C(C=C2)NC(OC(C)(C)C)=O)NC([O-])=O)COCC[Si](C)(C)C)OC
reactant | hydrochloric acid | 1N, 7.8 equiv | Cl | ClH
reactant | ammonia | N | H3N
product | 3-Chloro-4-(5-(3,4-diaminophenyl)-4-methoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-N,N-dimethylbenzamide | 78% yield | ClC=1C=C(C(=O)N(C)C)C=CC1NC=1N=C(C2=C(N1)N(C=C2C2=CC(=C(C=C2)N)N)COCC[Si](C)(C)C)OC | C28H36ClN7O3Si
